US04874775
N-(4-fluorobenzyl)-N-(pyridin-3-ylmethyl)methanesulfonamide
A 3.24 g. portion of 3-(4-fluorobenzylaminomethyl)pyridine was dissolved in 15 ml. of dichloromethane, and 2.96 g. of methanesulfonic anhydride was added. The mixture boiled briefly, and a precipitate formed. Fifteen ml. of additional dichloromethane was added, and the mixture stood at ambient temperature for 2 days. It was then diluted with 20 ml. of aqueous sodium bicarbonate solution and 5 ml. of aqueous sodium hydroxide solution, and the organic layer was washed with water, dried over magnesium sulfate and evaporated to an oil. The oil was dissolved in chloroform and purified over silica gel, eluting first with chloroform and then with chloroform:ethyl acetate. The product-containing fractions were collected and evaporated to obtain 1.2 g. of oil, which was rechromatographed to obtain 0.95 g. of the desired product.

reactant | 3-(4-fluorobenzylaminomethyl)pyridine | FC1=CC=C(CNCC=2C=NC=CC2)C=C1 | C13H13FN2
reactant | methanesulfonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-fluorobenzyl)-N-(pyridin-3-ylmethyl)methanesulfonamide | FC1=CC=C(CN(S(=O)(=O)C)CC=2C=NC=CC2)C=C1 | C14H15FN2O2S
